US08748432B2
To a solution of (5-methyl-3-trifluoromethyl-pyrazol-1-yl)-acetic acid (0.49 g, 2.35 mmol) in DMF (10 mL) is added triethylamine (0.65 mL, 4.7 mmol), followed by 1-hydroxy-7-benzotriazole (0.32 g, 2.35 mmol) and 1-Ethyl-3-(3-dimethyllaminopropyl)carbodiimide hydrochloride (0.45 g, 2.35 mmol). After stirring 15 min at RT, 3-Piperidin-4-yl-phenylamine hydrochloride (0.50 g, 2.35 mmol) is added to the reaction mixture. After stirring overnight at RT, solvent is evaporated and the resulting yellow oil is dissolved in ethylacetate (20 mL), washed with saturated aqueous sodium bicarbonate solution (20 mL), and brine (20 mL). The organic layer is dried over sodium sulfate, filtered, and evaporated under reduced pressure to give 1-[4-(3-amino-phenyl)-piperidin-1-yl]-2-(5-methyl-3-trifluoromethyl-pyrazol-1-yl)-ethanone as a crude mixture of good enough purity for the next step (0.86 g, quantitative). 1H-NMR (400 MHz, MeOD): δ=1.52-1.63 (m, 1H), 1.64-1.73 (m, 1H), 1.80-1.93 (m, 2H), 2.33 (s, 3H), 2.68-2.81 (m, 2H), 2.99 (s, 2H), 3.21-3.27 (m, 1H), 4.02-4.09 (m, 1H), 4.55-4.62 (m, 1H), 5.12-5.28 (q, 2H), 6.41 (s, 1H), 6.55-6.60 (m, 1H), 6.61-6.62 (m, 1H), 7.00-7.07 (t, 1H), 7.99 (s, 1H). MS: m/z=367 (M+1).

reactant | (5-methyl-3-trifluoromethyl-pyrazol-1-yl)-acetic acid | 2.35 mmol, 0.49 g | CC1=CC(=NN1CC(=O)O)C(F)(F)F | C7H7F3N2O2
reactant | triethylamine | 4.7 mmol, 0.65 mL | C(C)N(CC)CC | C6H15N
reactant | 3-Piperidin-4-yl-phenylamine hydrochloride | 2.35 mmol, 0.50 g | Cl.N1CCC(CC1)C=1C=C(C=CC1)N
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 1-[4-(3-amino-phenyl)-piperidin-1-yl]-2-(5-methyl-3-trifluoromethyl-pyrazol-1-yl)-ethanone | NC=1C=C(C=CC1)C1CCN(CC1)C(CN1N=C(C=C1C)C(F)(F)F)=O | C18H21F3N4O
